US04352808
To a suspension of cis-7-chloro-3-hydroxy-2,3-dihydro-2-(1'-imidazolylmethyl)benzo(b)thiophene (2.67 gms., 10 mmols) in dry dimethylformamide (30 ml.) at 0°-5° C., add sodium hydride (50% oil dispersion) (0.53 gms., 11 mmols) and stir for one hour at room temperature. Add chloromethyl methyl sulfide (1.06 gms., 11 mmols) and stir again for one hour at room temperature. Pour the reaction mixture into ether (500 ml.) and extract with three portions (500 ml. each) of water. Dry the ether solution over anhydrous magnesium sulfate and evaporate in vacuo. Chromatograph the resultant residue by high pressure liquid chromatography using two silica gel cartridges and eluting with ethyl acetate. Combine the like eluates as determined by thin layer chromatography and evaporate the combined residues to give cis-7-chloro-3-(methylthiomethoxy)-2,3-dihydro-2-(1'-imidazolylmethyl)benzo(b)-thiophene.

reactant | cis-7-chloro-3-hydroxy-2,3-dihydro-2-(1'-imidazolylmethyl)benzo(b)thiophene | 10 mmols, 2.67 gms | ClC1=CC=CC2=C1S[C@H]([C@H]2O)CC=2NC=CN2 | C12H11ClN2OS
reactant | sodium hydride | 11 mmols, 0.53 gms | [H-].[Na+]
reactant | chloromethyl methyl sulfide | 11 mmols, 1.06 gms | CSCCl | C2H5ClS
reactant | ether | 500 ml | CCOCC | C4H10O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | cis-7-chloro-3-(methylthiomethoxy)-2,3-dihydro-2-(1'-imidazolylmethyl)benzo(b)-thiophene | ClC1=CC=CC2=C1S[C@H]([C@H]2OCSC)CC=2NC=CN2 | C14H15ClN2OS2
